US05789614
The thus-prepared crude reaction solution was analyzed by gas chromatography and it was confirmed that a urethane compound corresponding to IPDA, that is, 3-methoxycarbonylaminomethyl-3,5,5-trimethyl-1-methoxycarbonylaminocyclohexane, was produced in a yield of 98.1% based on IPDA.

reactant | urethane | NC(=O)OCC | C3H7NO2
reactant | IPDA | CC1(CC(CC(C1)(C)CN)N)C | C10H22N2
product | 3-methoxycarbonylaminomethyl-3,5,5-trimethyl-1-methoxycarbonylaminocyclohexane | yield of 98.1% | COC(=O)NCC1(CC(CC(C1)(C)C)NC(=O)OC)C | C14H26N2O4
